US07335660B2
b) 2-(6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)acetic acid
2-(6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)acetic acid ethyl ester (20 g, 66.9 mmol) was dissolved in absolute ethanol (40 mL). The mixture was cooled to 0° C. and 4N NaOH (22 mL) was added over five minutes. The reaction mixture was then stirred for 1.5 h at room temperature. Water (22 mL) was added, and the solution washed with dichloromethane (70 mL). The aqueous layer was collected and acidified with 6N HCl (17 mL) and extracted with dichloromethane (70 mL). The organic layer was concentrated in vacuo to give an off-white solid. This solid was suspended in toluene (66 mL) and heated to 100° C. The resulting solution was cooled to 80° C. and cyclohexane (66 mL) added. The resulting suspension was cooled to room temperature and stirred for an hour. The solid was then filtered off, washed with cyclohexane (20 mL), and dried at 40° C. in vacuo to give the title compound as a white solid.

reactant | 2-(6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)acetic acid ethyl ester | 66.9 mmol, 20 g | C(C)OC(CC1OCCC2=C1C=CC(=C2)Br)=O | C13H15BrO3
reactant | NaOH | 4N, 22 mL | [OH-].[Na+]
reactant | Water | 22 mL | O | H2O
reactant | cyclohexane | 66 mL | C1CCCCC1 | C6H12
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | toluene | 66 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(6-Bromo-3,4-dihydro-1H-2-benzopyran-1-yl)acetic acid | BrC=1C=CC2=C(CCOC2CC(=O)O)C1 | C11H11BrO3
